US06852732B2
In methylene chloride (1.5 mL) were dissolved 1-(2,4-dichlorophenyl)-4-(3-ethoxycarbonyl-4-hydroxypiperidin-1-yl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine (53 mg), triethylamine (34 mg) and a small amount of 4-dimethylaminopyridine. Methanesulfonyl chloride (25 mg) was added thereto and the resulting mixture was stirred at room temperature for 2 hours. A saturated aqueous sodium hydrogencarbonate solution was poured into the reaction mixture, which was then extracted three times with chloroform. The combined organic layer was dried over anhydrous sodium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in benzene (1.0 mL), followed by adding thereto 1,8-diazabicyclo[5.4.0]-7-undecene (17 mg), and the resulting mixture was heated under reflux for 1 hour. A saturated aqueous ammonium chloride solution was poured into the reaction mixture, which was then extracted three times with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulfate, after which the desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: hexane-ethyl acetate=5:1) to obtain 4-(5-ethoxy-carbonyl-1,2,3,6-tetrahydropyridin-1-yl)-1-(2,4-dichlorophenyl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine (27 mg).

reactant | 1-(2,4-dichlorophenyl)-4-(3-ethoxycarbonyl-4-hydroxypiperidin-1-yl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine | 53 mg | ClC1=C(C=CC(=C1)Cl)N1C(=C(C=2C1=NC(=CC2N2CC(C(CC2)O)C(=O)OCC)C)C)C | C24H27Cl2N3O3
reactant | triethylamine | 34 mg | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 25 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-(5-ethoxy-carbonyl-1,2,3,6-tetrahydropyridin-1-yl)-1-(2,4-dichlorophenyl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine | 27 mg | C(C)OC1=CCC(N(C1)C1=C2C(=NC(=C1)C)N(C(=C2C)C)C2=C(C=C(C=C2)Cl)Cl)=C=O | C24H23Cl2N3O2
